US05093370
1,3-Bis[4-(2-tetrahydropyranyloxy)butyl]benzene
To 17.5 ml of absolute n-hexane were added dropwise 530 mg of m-xylene and 1.40 g of potassium t-butoxide, followed by addition of 8.4 ml of 1.6M solution of n-butyl lithium in n-hexane over 5 minutes with stirring at a room temperature, and the mixture was refluxed for an hour to obtain a orange suspension. This reaction mixture was cooled with dry ice/acetone, and after adding at once a solution of 3.35 g 2-(3-bromopropyloxy)tetrahydropyran in absolute n-hexane with stirring, further stirred for 5 minutes, warmed to a room temperature and stirred at the same temperature overnight. To a pale yellow suspension thus obtained were added 20 ml of ice water and 50 ml of n-hexane. The separated organic layer was washed with water and a saturated sodium chloride aqueous solution, dried over magnesium sulfate, and evaporated under a reduced pressure to remove the solvent. The resulting oily residue was applied to a silica gel column and eluted with hexane/ethyl acetate (20:1) to obtain 913 mg of the title compound as a colorless liquid.

reactant | potassium t-butoxide | 1.40 g | CC(C)([O-])C.[K+]
reactant | n-butyl lithium | C(CCC)[Li]
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 2-(3-bromopropyloxy)tetrahydropyran | 3.35 g | BrCCCOC1OCCCC1 | C8H15BrO2
solvent | n-hexane | CCCCCC | C6H14
solvent | n-hexane | 50 ml | CCCCCC | C6H14
solvent | n-hexane | 17.5 ml | CCCCCC | C6H14
solvent | m-xylene | 530 mg | C1(=CC(=CC=C1)C)C | C8H10
product | 1,3-Bis[4-(2-tetrahydropyranyloxy)butyl]benzene | 913 mg | O1C(CCCC1)OCCCCC1=CC(=CC=C1)CCCCOC1OCCCC1 | C24H38O4
